US04873349
Preparation of 2,3,4-trimethoxybenzyl bromide
A solution of 1-hydroxymethyl-2,3,4-trimethoxybenzene (1 g, 5 mmoles) in anhydrous ethered solution (10 ml) is injected into a three-necked flask supplied with a septum and equipped with a magnetic stirrer, which is swept with argon. Phosphorus tribromide at -20° C. (1.46 g, 5 mmoles) dissolved in ether (8 ml) is then added. The mixture is stirred at -10° C. for 2 hours and then washed with ice-cold water and finally with NaCl, and then dried over MgSO4. Evaporation at 0° C. under reduced pressure gives a colorless oil (1.24 g) which is homogeneous in TLC (Y=95%).

reactant | 1-hydroxymethyl-2,3,4-trimethoxybenzene | 5 mmoles, 1 g | OCC1=C(C(=C(C=C1)OC)OC)OC | C10H14O4
reactant | Phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | ether | 8 ml | CCOCC | C4H10O
product | 2,3,4-trimethoxybenzyl bromide | 1.24 g | COC1=C(CBr)C=CC(=C1OC)OC | C10H13BrO3
